US08222424B2
1-Methyl-1,3,4,9-tetrahydro-indeno[2,1-b]pyridin-2-one
3-Methylamino-propionic acid methyl ester (1.5 g, 13.64 mmol) is added to a solution of 2-indanone (1.7 g, 12.86 mmol) in toluene (20 mL) and the reaction is brought to reflux for 2.5 hours. Toluene is removed in vacuo and the residue is dissolved in ethylene glycol (17 mL) and the resulting solution is heated to reflux for 8 hours. The reaction is allowed to cool to ambient temperature, is poured over water and extracted with dichloromethane. The organic phase is dried over magnesium sulfate and concentrated in vacuo to afford the crude title compound as a brown oil. The crude product is purified by silica gel chromatography (gradient of ethyl acetate in hexanes 10-100%) affording 720 mg (28% yield) of the title compound. 1H NMR (CDCl3) δ2.70-2.80 (m, 4H), 3.23 (s, 3H), 3.5 (s, 2H), 7.07-7.15 (m, 2H), 7.24-7.33 (m, 1H), 7.38 (d, 1H, J=7.07). MS (m/z): 199.2 (M+1).

reactant | 3-Methylamino-propionic acid methyl ester | 13.64 mmol, 1.5 g | COC(CCNC)=O | C5H11NO2
reactant | 2-indanone | 12.86 mmol, 1.7 g | C1C(CC2=CC=CC=C12)=O | C9H8O
reactant | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 1-Methyl-1,3,4,9-tetrahydro-indeno[2,1-b]pyridin-2-one | 720 mg, 28% yield | CN1C2=C(CCC1=O)C=1C=CC=CC1C2 | C13H13NO
